US06541661B1
Step 1: 4(3-Phenylpropenyl)-benzoic Acid/4-(3-Phenyl-2-propenyl)-benzoic Acid (54)
Allylbenzene (255 μL, 1.9 mmol), 4-bromobenzoic acid (523 mg, 2.6 mmol), Et3N (0.91 mL, 6.5 mmol), Palladium (II) Acetate (16 mg, 0.052 mmol), triphenylphosphine (60 mg, 0.21 mmol) and acetonitrile (5 mL) were stirred at reflux overnight in a round bottom flask. Added HCl 1N, extracted with EtOAc, dried the organic layer on anhydrous MgSO4, filtered, evaporated solvent under vacuum. Purified by column chromatography using 10% MeOH/CH2Cl2 yielded 90 mg (14%) of mixture of two regioisomers 54. The mixture was then submitted for hydrogenation without further characterization.

reactant | Allylbenzene | 1.9 mmol, 255 μL | C(C=C)C1=CC=CC=C1 | C9H10
reactant | 4-bromobenzoic acid | 2.6 mmol, 523 mg | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | Et3N | 6.5 mmol, 0.91 mL | CCN(CC)CC | C6H15N
reactant | triphenylphosphine | 0.21 mmol, 60 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | Palladium (II) Acetate | 0.052 mmol, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 4(3-Phenylpropenyl)-benzoic Acid 4-(3-Phenyl-2-propenyl)-benzoic Acid | 90 mg, 14% | C1(=CC=CC=C1)CC=CC1=CC=C(C(=O)O)C=C1.C1(=CC=CC=C1)C=CCC1=CC=C(C(=O)O)C=C1 | 2C16H14O2
